US07935722B2
N-[9-(2-Chloro-benzyl)-6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Dissolve N-(6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (Preparation 6) (100 mg, 0.35 mmol) in anhydrous tetrahydrofuran (4 mL) under nitrogen. Add dropwise potassium bis(trimethylsilyl)amide (0.77 mL, 0.385 mmol, 0.5N in toluene) and stir 25 min. Add slowly 2-chlorobenzylbromide (0.050 mL, 0.385 mmol) and stir at ambient temperature for 18 h. Quench with saturated ammonium chloride solution (0.5 mL) and dilute with a volume of dichloromethane and water (1 mL). Pass over a Varian Chem Elut column to remove aqueous portion and concentrate in vacuo. Alternatively, workup with ethyl acetate/water and dry over MgSO4. Purify the resulting residue by flash chromatography, eluting with dichloromethane with a gradient up to 10% ethyl acetate/dichloromethane to obtain 99 mg (69%) of a white solid. MS (ES): m/z 411, 413 (M+1); 1H NMR(DMSO-d6): δ 7.86 (d, 1H, J=7.5 Hz), 7.52 (d, 1H, J=8.4 Hz), 7.28 (t, 1H, J=7.7 Hz), 7.17 (m, 2H), 6.97 (d, 1H, J=2.2 Hz), 6.68 (dd, 1H, J=8.8, 2.2 Hz), 6.24 (d, 1H, J=7.9 Hz), 5.36 (s, 2H), 4.02 (m, 1H), 3.77 (s, 3H), 2.98 (dd, 1H, J=15.2, 5.1 Hz), 2.75-2.61 (m, 2H), 2.41 (m, 1H), 1.96 (m, 1H), 1.81 (m, 1H), 2.52 (m, 1H).

reactant | N-(6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 0.35 mmol, 100 mg | COC=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H22N2O2
reactant | potassium bis(trimethylsilyl)amide | 0.385 mmol, 0.5N, 0.77 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-chlorobenzylbromide | 0.385 mmol, 0.050 mL | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-[9-(2-Chloro-benzyl)-6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 99 mg, 69% | ClC1=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(C(C)C)=O)OC)C=CC=C1 | C24H27ClN2O2
